US08791119B2
To a solution of 7.10 g (22.5 mmol) of methyl 6-chloro-7-(3-cyanophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxylate in 50 ml of dichloromethane are added slowly 5.40 g (24.7 mmol) of di-tert-butyl dicarbonate (CAS 24424-99-5) dissolved in about 20 ml of dichloromethane. After stirring for 1 hour at room temperature, the solvent is evaporated off under reduced pressure to give a yellow oil, which is purified by chromatography on a column of 80 g of silica gel, eluting with a mixture of 20% ethyl acetate in cyclohexane to give 7.5 g of 2-tert-butyl 8-methyl 6-chloro-7-(3-cyanophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxylate in the form of a transparent oil that crystallizes from methanol.

reactant | methyl 6-chloro-7-(3-cyanophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxylate | 22.5 mmol, 7.10 g | ClC1=C(C(=C2N1CCNC2)C(=O)OC)C2=CC(=CC=C2)C#N | C16H14ClN3O2
reactant | di-tert-butyl dicarbonate | 24.7 mmol, 5.40 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | about 20 ml | ClCCl | CH2Cl2
product | 2-tert-butyl 8-methyl 6-chloro-7-(3-cyanophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxylate | 7.5 g | ClC1=C(C(=C2N1CCN(C2)C(=O)OC(C)(C)C)C(=O)OC)C2=CC(=CC=C2)C#N | C21H22ClN3O4
